US08912330B2
6-bromo-N-[(E)-phenylmethylidene]-1H-pyrrolo[3,2-b]pyridin-1-amine:
A mixture of 6-bromo-1H-pyrrolo[3,2-b]pyridin-1-amine (200 mg, 0.95 mmol) and benzaldehyde (120 mg, 1.2 eq) was heated to 60° C. for 10 min. Heptanes (2.0 ml) was added and the mixture was heated to reflux for 10 min. The product was purified by column chromatography (heptane:EtOAc=1:1) to yield a grey solid (130 mg, yield 46%).

reactant | 6-bromo-1H-pyrrolo[3,2-b]pyridin-1-amine | 0.95 mmol, 200 mg | BrC=1C=C2C(=NC1)C=CN2N | C7H6BrN3
reactant | benzaldehyde | 120 mg, 1.2 eq | C(C1=CC=CC=C1)=O | C7H6O
product | 6-bromo-N-[(E)-phenylmethylidene]-1H-pyrrolo[3,2-b]pyridin-1-amine | 130 mg, yield 46% | BrC=1C=C2C(=NC1)C=CN2/N=C/C2=CC=CC=C2 | C14H10BrN3
